US06706751B2
In analogy to example 2.6, 6-(6-Bromo-hexyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester and N-allyl-methylamine were converted to yield 6-[6-(Allyl-methyl-amino)-hexyloxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as colorless gum, MS: 403 (MH+).

reactant | 6-(6-Bromo-hexyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCCCBr | C20H30BrNO3
reactant | N-allyl-methylamine | C(C=C)NC | C4H9N
product | 6-[6-(Allyl-methyl-amino)-hexyloxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCCCN(C)CC=C | C24H38N2O3
